US08404856B2
Step 4: 3-(3,5-dichlorophenoxy)-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-4-(trifluoromethyl)pyridin-2(1H)-one 19-4
To tert-butyl 3-{[3-(3,5-dichlorophenoxy)-2-oxo-4-(trifluoromethyl)pyridin-1(2H)-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate (0.625 g, 1.13 mmol) in a flask was added TFA (10 mL). This solution under an atmosphere of N2 was placed in an oil bath at 75° C. After 4 hours, the reaction mixture was concentrated under reduced pressure, diluted with ethyl acetate (100 mL) and washed with 50% aqueous sodium carbonate (50 mL). The aqueous layer was back extracted with ethyl acetate (100 mL) and the combined organic extracts were dried (MgSO4), filtered and the solvent evaporated under reduced pressure. The resulting solid was adsorbed onto silica gel and purified by column chromatography on a pre-packed silica gel Redi Sep 40 gram column, eluting with 0-5% methanol in CH2Cl2 to afford the title compound. 1H NMR (DMSO-d6) δ 13.65 (s, 1H), 8.54-8.52 (m, 1H), 8.16 (d, J=8.0 Hz, 1H), 8.04 (d, J=7.3 Hz, 1H), 7.32-7.30 (m, 1H), 7.18 (dd, J=8.0 Hz, J=4.4 Hz, 1H), 7.06-7.04 (m, 2H), 6.63 (d, J=7.3 Hz, 1H), 5.54 (s, 2H). HRMS (M+1)=455.0289.

reactant | tert-butyl 3-{[3-(3,5-dichlorophenoxy)-2-oxo-4-(trifluoromethyl)pyridin-1(2H)-yl]methyl}-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | 1.13 mmol, 0.625 g | ClC=1C=C(OC=2C(N(C=CC2C(F)(F)F)CC2=NN(C3=NC=CC=C32)C(=O)OC(C)(C)C)=O)C=C(C1)Cl | C24H19Cl2F3N4O4
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-(3,5-dichlorophenoxy)-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-4-(trifluoromethyl)pyridin-2(1H)-one | ClC=1C=C(OC=2C(N(C=CC2C(F)(F)F)CC2=NNC3=NC=CC=C32)=O)C=C(C1)Cl | C19H11Cl2F3N4O2
